US04801610
4-acetyloxybenzophenone
The title compound was prepared from 4-hydroxybenzophenone and acetyl chloride in pyridine and recrystallized from ethanol (M.P.~82°-83.5° C.). See J. Chem. Soc., 2867 (1927).

reactant | 4-hydroxybenzophenone | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-acetyloxybenzophenone | C(C)(=O)OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C15H12O3
